US05302346
594 g (1.5 mol) 2-octadecyloxynaphthalene and 397 g (0.75 mol) lead tetraacetate are added to a mixture of 3 l glacial acetic acid and 600 ml acetic anhydride in a 10 l three-neck flask with stirrer, Claisen attachment, thermometer and cooler with a calcium chloride tube and it is heated to 55° C. Over a period of 4 days a further 400 g lead tetraacetate are added in portions (each of 100 g) at intervals of 24 hours while stirring. Afterwards the yellow solution which is formed is cooled to room temperature, stirred again for 30 minutes after addition of 1.5 l water, the crystal slurry which forms is aspirated and washed in portions with 2 l water. The wet crude product is dissolved in 4 l toluol and shaken three times with 1 l portions of water, three times with 1 l saturated sodium hydrogen carbonate solution and then again three times with 1 l water. After drying the toluol phase over sodium sulphate, aspiration and concentration by evaporation, 635 g brown crude product are obtained which is purified chromatographically as follows: the crystallizate obtained is dissolved in a mixture of 1.3 l toluol/isohexane 5:2 and the solution is applied to a silica gel 60 (Merck) column, inside diameter 11.5 cm, filling height 1.2 m. Toluol/isohexane 5:2 is used as the mobile solvent and fractions of ca 300 ml are taken. Fractions 9-52 are combined and concentrated by evaporation until constancy of weight. One obtains 324.2 g 2-octadecyloxy-1-naphthol methanol acetate, Fp 67°-68° C. This is dissolved without further purification in 1.8 l methanol while heating and cooled to 20° C. 93 ml concentrated sulphuric acid are added dropwise within 15 minutes to the suspension which forms without cooling and while stirring, whereby the temperature increases to 35° C. Subsequently it is heated for 2 hours under reflux, then cooled with an ice bath and stirred for a further 30 minutes while cooling on ice. The crystals which form are aspirated, washed with 150 ml ice-cold methanol and dried at 35° C. in a drying cupboard over diphosphorus pentoxide. One obtains 294.4 g (47.5% of the theoretical yield) 2-octadecyloxy-1-naphthol, colourless crystals, Fp 58°-59° C.

reactant | 2-octadecyloxynaphthalene | 1.5 mol, 594 g | C(CCCCCCCCCCCCCCCCC)OC1=CC2=CC=CC=C2C=C1 | C28H44O
reactant | lead tetraacetate | 0.75 mol, 397 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | acetic acid | 3 l | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 600 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | lead tetraacetate | 400 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | toluol isohexane | 1.3 l | C1(=CC=CC=C1)C.CCCC(C)C
solvent | water | 1.5 l | O | H2O
product | 2-octadecyloxy-1-naphthol methanol acetate | 324.2 g | C(C)(=O)OC.C(CCCCCCCCCCCCCCCCC)OC1=C(C2=CC=CC=C2C=C1)O | InChI=1S/C28H44O2.C3H6O2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-24-30-27-23-22-25-20-17-18-21-26(25)28(27)29;1-3(4)5-2/h17-18,20-23,29H,2-16,19,24H2,1H3;1-2H3
